2122-08-17 07:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 NASAL SWAB - At [**2122-8-16**] 09:00 PM
 EKG - At [**2122-8-17**] 04:27 AM
   -written for 7 liters NS
   - s/p 1 dose Lasix 40mg IV
   -NIF -55 this AM
   Allergies:
   Erythromycin Base
   increased infec
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2122-8-17**] 02:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-8-17**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.5
C (97.7
   HR: 62 (61 - 85) bpm
   BP: 157/81(99) {157/73(94) - 215/105(131)} mmHg
   RR: 16 (16 - 24) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,018 mL
                                                                  3,789 mL
   PO:
             TF:
   IVF:
                                                                  1,018 mL
                                                                  3,789 mL
   Blood products:
   Total out:
                                                                    440 mL
                                                                  1,390 mL
   Urine:
                                                                    440 mL
                                                                  1,390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    578 mL
                                                                  2,399 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.35/69/29/29/8
   NIF: -55 cmH2O
   Physical Examination
   General: Sitting in bed, in NAD on nasal cannula
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Irregularly irregular rate and rhythm, normal S1 + S2, no murmurs,
   rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema,
   [**5-12**] muscle strength in all extremities, sensation intact all four
   extremities, mild dysarthria and bilateral lid lag.
   Labs / Radiology
   158 K/uL
   12.3 g/dL
   130 mg/dL
   1.4 mg/dL
   29 mEq/L
   4.3 mEq/L
   28 mg/dL
   95 mEq/L
   134 mEq/L
   37.7 %
   12.9 K/uL
        [image002.jpg]
                             [**2122-8-16**]  09:50 PM
                             [**2122-8-17**]  01:34 AM
                             [**2122-8-17**]  04:45 AM
   WBC
   11.3
   12.9
   Hct
   42.2
   37.7
   Plt
   184
   158
   Cr
   1.5
   1.4
   TCO2
   40
   Glucose
   166
   130
   Other labs: PT / PTT / INR:22.3/23.7/2.1, ALT / AST:20/22, Alk Phos / T
   Bili:23/0.5, Lactic Acid:2.2 mmol/L, Albumin:4.3 g/dL, LDH:300 IU/L,
   Ca++:13.5 mg/dL, Mg++:1.3 mg/dL, PO4:4.6 mg/dL
   .
   Uric acid 9.6
   Blood and urine cx pending
   .
   CXR: Unchanged from yesterday, cardiomegaly with enlarged pulmonary
   arteries
   Assessment and Plan
   65 y/o F with PMHx of AAA s/p endovasc repair, HTN, Stroke, Afib and
   myasthenia [**Last Name (un) **] who presented with generalized weakness, UTI and
   hypercalcemia.
   .
   # Hypercalcemia: Ca still elevated to 13.5 with PTH wnl. Given h/o lung
   cancer (likely small cell) have to consider paraneoplastic syndromes.
   Also must consider another primary malignancy as cause, possibly
   thymoma given h/o myasthenia [**Last Name (un) **].  Could also be due to her large
   HCTZ dose and supplemental calcium intake.  Difficult volume assessment
   although doesn't appear significantly dehydrated after getting IVF in
   ED.
   -hold oral calcium replacement
   -continue aggressive hydration 250cc/hr
   -s/p Pamidronate 60mg IV x 1
   -endocrine consulted
   -trend ionized Ca q6hrs
   -follow serial neuro exams
   -f/u PTHrp
   -t/b with outpt oncologist in am re status and treatment of lung cancer
   -consider chest CT to look for source
   .
   # Weakness: Differential is broad but includes hypercalcemia, UTI and
   myasthenia crisis in this pt who has had generalized weakness for the
   past few weeks.  Spoke with her primary neurologist who is concerned
   about myasthenic crisis- will give Imuran 100mg today and plan to start
   plasma pheresis.  Currently, sating well on RA though desats with
   sleeping likely due to apnea/OSA.  Pt is a chronic CO2 retainer with
   elevated serum bicarb, will need to monitor hypoventilation in setting
   of acute on chronic weakness.
   -continue home dose of Mestinon and Prednisone 40mg daily
   -avoid medications which may worsen myasthenia [**Last Name (un) **]
   -treat hypercalcemia as above
   -monitor resp status, goal sats of 90-92%
   -serial neuro exams and ABGs
   - monitor/trend vital capacities
   - plan for PFTs today
   .
   # Acute renal failure: Creatinine elevated from baseline 1.0 to 1.5 on
   admission.  Suspect may be prerenal as somewhat dry on exam.  Will give
   IVFs and recheck BMP.  Hypercalcemia likely causing dehydration and
   possibly contributing to ARF.
   -hold digoxin for now
   -continue IVF and trend creatinine
   -f/u urine lytes & urine Ca
   - d/c home lisinopril
   .
   # UTI: Leukocytosis and infected U/A on admission with urine culture
   pending. Started on ceftriaxone in the ED.
   -f/u urine cx
   -trend WBCs
   .
   # Metabolic alkalosis: Complicated acid/base picture as patient has
   chronic respiratory acidosis from COPD.  Possibly secondary to
   contraction in setting of hypercalcemia and likely dehydration.  Her
   bicarbonate is down with fluid resuscitation. [**Month (only) 51**] have a non-gap
   metabolic acidosis now superimposed on her chronic respiratory
   acidosis; would recheck her ABG.
   - repeat lytes and ABG
   .
   # HTN: SBPs in the 150s-180s.  BP regimen as below:
   - increase Hydralazine 50mg q6hr
   - increase Metoprolol 25mg TID
   - lasix 40mg IV- second dose to be given this AM
   - holding HCTZ given hypercalcemia
   -d/c lisinopril
   .
   # Elevated lactate: Trending down after IVFs and abx, likely secondary
   to dehydration and UTI.
   - trend lactate
   .
   # Afib: Currently in A fib and anticoagulated with INR of 2.3. Will
   hold home digoxin as EKG showed signs of digoxin changes per
   cardiology.  Dig level 1.7.
   - trend coags, holding coumadin for now given plan for pheresis (will
   need line)
   - increase metoprolol as above
   - holding digoxin due to ARF
   .
   # FEN: Continue aggressive IVF with 250cc/hr of NS
   - replete electrolytes, regular diet as tolerated
   .
   # Prophylaxis: PPI (already anticoagulated)
   .
   # Access: PIVs
   .
   # Code: presumed full
   .
   # Communication: Patient
   .
   # Disposition: ICU for monitoring of respiratory status
   ICU Care
   Nutrition:  reg diet as tolerated
   Glycemic Control: none
   Lines:
   18 Gauge - [**2122-8-16**] 07:56 PM
   20 Gauge - [**2122-8-16**] 07:57 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   Communication:  with patient
   Code status: Full code
   Disposition: ICU

2122-08-17 10:50:00 Physician Attending Progress Note
Chief Complaint: [**First Name9 (NamePattern2) 9352**] [**Last Name (un) 249**], hypercalcemia, OSA, respiratory
   distress.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient did well through the night with no significant desaturation or
   dyspnea. Maximal inspiratory force near baseline (-50 to -60). Vital
   capacity could not be measured last night. Venous blood gas consistent
   with crhonic hypercanpnia.
   Patient given IV fluids and pamidronate for hypercalcemia. She has a hx
   of lung cancer treated in [**2116**].
   24 Hour Events:
 NASAL SWAB - At [**2122-8-16**] 09:00 PM
 EKG - At [**2122-8-17**] 04:27 AM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Erythromycin Base
   increased infec
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2122-8-17**] 02:03 AM
   Other medications:
   Lisinopril, ceftriaxone, folic acid, iron, celexa, asa, Advair,
   prednisone 40 mg/day, vit C, hydralazine, lopressor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-8-17**] 10:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.5
C (97.7
   HR: 69 (59 - 85) bpm
   BP: 130/108(112) {130/73(94) - 215/108(131)} mmHg
   RR: 25 (16 - 25) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,018 mL
                                                                  4,353 mL
   PO:
             TF:
   IVF:
                                                                  1,018 mL
                                                                  4,353 mL
   Blood products:
   Total out:
                                                                    440 mL
                                                                  2,140 mL
   Urine:
                                                                    440 mL
                                                                  2,140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    578 mL
                                                                  2,213 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.35/69/29/29/8
   NIF: -55 cmH2O
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , Diminished: , No(t) Absent : , Rhonchorous: Slightly)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent-edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   12.3 g/dL
   158 K/uL
   130 mg/dL
   1.4 mg/dL
   29 mEq/L
   4.3 mEq/L
   28 mg/dL
   95 mEq/L
   134 mEq/L
   37.7 %
   12.9 K/uL
        [image002.jpg]
                             [**2122-8-16**]  09:50 PM
                             [**2122-8-17**]  01:34 AM
                             [**2122-8-17**]  04:45 AM
   WBC
   11.3
   12.9
   Hct
   42.2
   37.7
   Plt
   184
   158
   Cr
   1.5
   1.4
   TCO2
   40
   Glucose
   166
   130
   Other labs: PT / PTT / INR:22.3/23.7/2.1, ALT / AST:20/22, Alk Phos / T
   Bili:23/0.5, Lactic Acid:2.2 mmol/L, Albumin:4.3 g/dL, LDH:300 IU/L,
   Ca++:13.5 mg/dL, Mg++:1.3 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
 HYPERCALCEMIA (HIGH CALCIUM)
 HYPERTENSION, BENIGN
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   [**First Name9 (NamePattern2) **] [**Last Name (un) **]
   RESPIRATORY DISTRESS
   OSA
   COPD
   =================
   Patient with flare of myasthenia. Per Dr. [**Last Name (STitle) 9353**], patient on Iumuran
   now and we will conisder initiation of plasmapharesis. Will check PFT's
   today; interpretation somewhat clouded by her underlying lung disease.
   Patient with evidence of chronic hypercapnia. Her bicarbonate is down
   with fluid resuscitation. [**Month (only) 51**] have a non-gap metabolic acidosis now
   superimposed on her chronic respiratory acidosis; would recheck her
   ABG. Maintain O2 sats at 91-92% to avoid worsening hypercapnia and to
   allow us to monitor better for hypoventilation.
   Continue bronchodilators.
   Calcium elevated with low PTH. [**Month (only) 51**] be related to treatment with HCTZ
   and calcium supplementation. Check CT to assess for recurrence/mets
   from lung ca.
   Patient with hx of OSA, but she refuses CPAP because of discomfort of
   mask.
   ICU Care
   Nutrition: Oral
   Glycemic Control:
   Lines:
   18 Gauge - [**2122-8-16**] 07:56 PM
   20 Gauge - [**2122-8-16**] 07:57 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2122-08-18 07:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PHERESIS CATHETER - START [**2122-8-17**] 04:24 PM
   Allergies:
   Erythromycin Base
   increased infec
   Last dose of Antibiotics:
   Ceftriaxone - [**2122-8-17**] 04:07 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-8-18**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98
   HR: 62 (56 - 79) bpm
   BP: 92/52(62) {92/52(62) - 169/108(112)} mmHg
   RR: 18 (12 - 25) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 85 kg (admission): 79.3 kg
             Total In:
                                                                  8,790 mL
                                                                    664 mL
   PO:
                                                                    750 mL
             TF:
   IVF:
                                                                  8,040 mL
                                                                    664 mL
   Blood products:
   Total out:
                                                                  5,735 mL
                                                                    840 mL
   Urine:
                                                                  5,735 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,055 mL
                                                                   -176 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.43/50/61/26/7
   NIF: -50 cmH2O
   Physical Examination
   General: Sitting in bed, in NAD on nasal cannula
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Irregularly irregular rate and rhythm, normal S1 + S2, no murmurs,
   rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema,
   [**5-12**] muscle strength in all extremities, sensation intact all four
   extremities, mild dysarthria and bilateral lid lag.
   Labs / Radiology
   138 K/uL
   11.2 g/dL
   121 mg/dL
   1.4 mg/dL
   26 mEq/L
   3.4 mEq/L
   23 mg/dL
   100 mEq/L
   135 mEq/L
   33.2 %
   7.8 K/uL
        [image002.jpg]
                             [**2122-8-16**]  09:50 PM
                             [**2122-8-17**]  01:34 AM
                             [**2122-8-17**]  04:45 AM
                             [**2122-8-17**]  05:09 PM
                             [**2122-8-17**]  05:48 PM
                             [**2122-8-18**]  02:55 AM
   WBC
   11.3
   12.9
   7.8
   Hct
   42.2
   37.7
   33.2
   Plt
   184
   158
   138
   Cr
   1.5
   1.4
   1.5
   1.4
   TCO2
   40
   34
   Glucose
   166
   130
   157
   121
   Other labs: PT / PTT / INR:22.3/23.7/2.1, ALT / AST:20/22, Alk Phos / T
   Bili:23/0.5, Lactic Acid:1.1 mmol/L, Albumin:4.3 g/dL, LDH:300 IU/L,
   Ca++:9.9 mg/dL, Mg++:1.0 mg/dL, PO4:2.7 mg/dL
   .
   Blood cx pending
   Urine cx: GNR, pending speciation
   CXR: Pheresis tip at cavoatrial junction, pulmonary artery or hilar
   fullness
   Assessment and Plan
   65 y/o F with PMHx of AAA s/p endovasc repair, HTN, Stroke, Afib and
   myasthenia [**Last Name (un) **] who presented with generalized weakness, UTI and
   hypercalcemia.
   .
   # Hypercalcemia: Ca still elevated to 13.5 with PTH wnl. Given h/o lung
   cancer (likely small cell) have to consider paraneoplastic syndromes.
   Also must consider another primary malignancy as cause, possibly
   thymoma given h/o myasthenia [**Last Name (un) **].  Could also be due to her large
   HCTZ dose and supplemental calcium intake.  Difficult volume assessment
   although doesn't appear significantly dehydrated after getting IVF in
   ED.
   -hold oral calcium replacement
   -continue aggressive hydration 250cc/hr
   -s/p Pamidronate 60mg IV x 1
   -endocrine consulted
   -trend ionized Ca q6hrs
   -follow serial neuro exams
   -f/u PTHrp
   -t/b with outpt oncologist in am re status and treatment of lung cancer
   -consider chest CT to look for source
   .
   # Weakness: Differential is broad but includes hypercalcemia, UTI and
   myasthenia crisis in this pt who has had generalized weakness for the
   past few weeks.  Spoke with her primary neurologist who is concerned
   about myasthenic crisis- will give Imuran 100mg today and plan to start
   plasma pheresis.  Currently, sating well on RA though desats with
   sleeping likely due to apnea/OSA.  Pt is a chronic CO2 retainer with
   elevated serum bicarb, will need to monitor hypoventilation in setting
   of acute on chronic weakness.
   -continue home dose of Mestinon and Prednisone 40mg daily
   -avoid medications which may worsen myasthenia [**Last Name (un) **]
   -treat hypercalcemia as above
   -monitor resp status, goal sats of 90-92%
   -serial neuro exams and ABGs
   - monitor/trend vital capacities
   - plan for PFTs today
   .
   # Acute renal failure: Creatinine elevated from baseline 1.0 to 1.5 on
   admission.  Suspect may be prerenal as somewhat dry on exam.  Will give
   IVFs and recheck BMP.  Hypercalcemia likely causing dehydration and
   possibly contributing to ARF.
   -hold digoxin for now
   -continue IVF and trend creatinine
   -f/u urine lytes & urine Ca
   - d/c home lisinopril
   .
   # UTI: Leukocytosis and infected U/A on admission with urine culture
   pending. Started on ceftriaxone in the ED.
   -f/u urine cx
   -trend WBCs
   .
   # Metabolic alkalosis: Complicated acid/base picture as patient has
   chronic respiratory acidosis from COPD.  Possibly secondary to
   contraction in setting of hypercalcemia and likely dehydration.  Her
   bicarbonate is down with fluid resuscitation. [**Month (only) 51**] have a non-gap
   metabolic acidosis now superimposed on her chronic respiratory
   acidosis; would recheck her ABG.
   - repeat lytes and ABG
   .
   # HTN: SBPs in the 150s-180s.  BP regimen as below:
   - increase Hydralazine 50mg q6hr
   - increase Metoprolol 25mg TID
   - lasix 40mg IV- second dose to be given this AM
   - holding HCTZ given hypercalcemia
   -d/c lisinopril
   .
   # Elevated lactate: Trending down after IVFs and abx, likely secondary
   to dehydration and UTI.
   - trend lactate
   .
   # Afib: Currently in A fib and anticoagulated with INR of 2.3. Will
   hold home digoxin as EKG showed signs of digoxin changes per
   cardiology.  Dig level 1.7.
   - trend coags, holding coumadin for now given plan for pheresis (will
   need line)
   - increase metoprolol as above
   - holding digoxin due to ARF
   .
   # FEN: Continue aggressive IVF with 250cc/hr of NS
   - replete electrolytes, regular diet as tolerated
   .
   # Prophylaxis: PPI (already anticoagulated)
   .
   # Access: PIVs
   .
   # Code: presumed full
   .
   # Communication: Patient
   .
   # Disposition: ICU for monitoring of respiratory status
   ICU Care
   Nutrition:  reg diet as tolerated
   Glycemic Control: none
   Lines:
   18 Gauge - [**2122-8-16**] 07:56 PM
   20 Gauge - [**2122-8-16**] 07:57 PM
   Pheresis Catheter - [**2122-8-17**] 04:24 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2122-08-18 10:13:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress, myaesthenia [**Last Name (un) **],
   hypercalcemia, afib
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Plasmapharesis catheter placed.
   Vital capacity 1L.
   24 Hour Events:
 PHERESIS CATHETER - START [**2122-8-17**] 04:24 PM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Erythromycin Base
   increased infec
   Last dose of Antibiotics:
   Ceftriaxone - [**2122-8-17**] 04:07 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-8-18**] 10:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 64 (56 - 79) bpm
   BP: 87/73(76) {87/52(62) - 167/103(111)} mmHg
   RR: 26 (12 - 26) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 85 kg (admission): 79.3 kg
             Total In:
                                                                  8,790 mL
                                                                    687 mL
   PO:
                                                                    750 mL
             TF:
   IVF:
                                                                  8,040 mL
                                                                    687 mL
   Blood products:
   Total out:
                                                                  5,735 mL
                                                                  1,080 mL
   Urine:
                                                                  5,735 mL
                                                                  1,080 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,055 mL
                                                                   -393 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.43/50/61/26/7
   NIF: -50 cmH2O
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, Paradoxical), (Percussion:
   Resonant : , No(t) Hyperresonant: , No(t) Dullness : ), (Breath Sounds:
   No(t) Clear : , Crackles : Few, No(t) Bronchial: , No(t) Wheezes : ,
   Diminished: Bilaterally, No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   11.4 g/dL
   167 K/uL
   121 mg/dL
   1.4 mg/dL
   26 mEq/L
   4.1 mEq/L
   23 mg/dL
   100 mEq/L
   135 mEq/L
   34.6 %
   9.6 K/uL
        [image002.jpg]
                             [**2122-8-16**]  09:50 PM
                             [**2122-8-17**]  01:34 AM
                             [**2122-8-17**]  04:45 AM
                             [**2122-8-17**]  05:09 PM
                             [**2122-8-17**]  05:48 PM
                             [**2122-8-18**]  02:55 AM
                             [**2122-8-18**]  08:49 AM
   WBC
   11.3
   12.9
   7.8
   9.6
   Hct
   42.2
   37.7
   33.2
   34.6
   Plt
   184
   158
   138
   167
   Cr
   1.5
   1.4
   1.5
   1.4
   TCO2
   40
   34
   Glucose
   166
   130
   157
   121
   Other labs: PT / PTT / INR:20.0/27.0/1.8, ALT / AST:20/22, Alk Phos / T
   Bili:23/0.5, Lactic Acid:1.1 mmol/L, Albumin:4.3 g/dL, LDH:300 IU/L,
   Ca++:9.9 mg/dL, Mg++:2.6 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR:  no infiltrates. Mildly enlarged central pulmonary
   artery.
   Assessment and Plan
 HYPERCALCEMIA (HIGH CALCIUM)
 HYPERTENSION, BENIGN
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   MYAESTHENIA
   RESPIRATORY DISTRESS
   RENAL FAILURE
   ================
   Patient appears stronger and more alert today. Denies dyspnea. VC at or
   just over 1L.  Continues on imuran; plasmapharesis to be started today.
   Continue to monitor Vital capacity daily.
   Calcium improved. Calcitonin started.
   Creat down slightly today. Electrolytes acceptable. Acid-base status
   acceptable.
   ICU Care
   Nutrition:
   Comments: Regular diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2122-8-16**] 07:56 PM
   20 Gauge - [**2122-8-16**] 07:57 PM
   Pheresis Catheter - [**2122-8-17**] 04:24 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2122-08-19 07:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -no coumadin per pheresis team b/c pheresis modified coag factors -
   difficult to monitor INR. pt started on heparin drip for A-fib/ DVT. To
   be held 1-2h prior to pheresis. PTT to be drawn 4-6h after pheresis and
   heparin restarted.
   -very labile BP overnight
   -Calcium 9.3 at 1700
   -next pheresis Thursday [**2122-8-20**] (OMR note erroneously says [**2122-8-26**])
   -Neuro recs: no change to MG meds
   -Endo recs: PTH, Calcium and albumin ordered
   -to do [**8-19**] call outpt Onc ([**First Name4 (NamePattern1) 129**] [**Last Name (NamePattern1) 9411**] called - page him first): what
   management for small cell carcinoma in past? PCP [**Last Name (NamePattern4) **]: [**Last Name (NamePattern4) **] [**Telephone/Fax (1) 9412**].
   Allergies:
   Erythromycin Base
   increased infec
   Last dose of Antibiotics:
   Ceftriaxone - [**2122-8-18**] 05:05 PM
   Infusions:
   Heparin Sodium - 700 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-8-19**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.7
C (98.1
   HR: 61 (54 - 82) bpm
   BP: 113/61(73) {87/45(57) - 195/74(102)} mmHg
   RR: 15 (13 - 26) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 85 kg (admission): 79.3 kg
             Total In:
                                                                    974 mL
                                                                    556 mL
   PO:
                                                                     60 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    914 mL
                                                                    196 mL
   Blood products:
   Total out:
                                                                  1,850 mL
                                                                    600 mL
   Urine:
                                                                  1,850 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -876 mL
                                                                    -44 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///25/
   NIF: -50 cmH2O
   Physical Examination
   General: Sitting in bed, in NAD on nasal cannula
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Irregularly irregular rate and rhythm, normal S1 + S2, no murmurs,
   rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema,
   [**5-12**] muscle strength in all extremities, sensation intact all four
   extremities, mild dysarthria and bilateral lid lag.
   Labs / Radiology
   122 K/uL
   10.7 g/dL
   117 mg/dL
   1.4 mg/dL
   25 mEq/L
   3.2 mEq/L
   22 mg/dL
   99 mEq/L
   133 mEq/L
   32.4 %
   8.2 K/uL
        [image002.jpg]
                             [**2122-8-16**]  09:50 PM
                             [**2122-8-17**]  01:34 AM
                             [**2122-8-17**]  04:45 AM
                             [**2122-8-17**]  05:09 PM
                             [**2122-8-17**]  05:48 PM
                             [**2122-8-18**]  02:55 AM
                             [**2122-8-18**]  08:49 AM
                             [**2122-8-19**]  04:13 AM
   WBC
   11.3
   12.9
   7.8
   9.6
   8.2
   Hct
   42.2
   37.7
   33.2
   34.6
   32.4
   Plt
   184
   158
   138
   167
   122
   Cr
   1.5
   1.4
   1.5
   1.4
   1.4
   TCO2
   40
   34
   Glucose
   166
   130
   157
   121
   117
   Other labs: PT / PTT / INR:19.5/>150.0/1.8, ALT / AST:20/22, Alk Phos /
   T Bili:23/0.5, Lactic Acid:1.1 mmol/L, Albumin:4.1 g/dL, LDH:300 IU/L,
   Ca++:9.3 mg/dL, Mg++:1.5 mg/dL, PO4:1.5 mg/dL
   .
   PTH 50 (16 on admission)
   SPEP nml
   UPEP neg
   Blood cx pending
   CXR: Unchanged
   Assessment and Plan
   65 y/o F with PMHx of AAA s/p endovasc repair, HTN, Stroke, Afib and
   myasthenia [**Last Name (un) **] who presented with generalized weakness, UTI and
   hypercalcemia.
   .
   # Hypercalcemia: Ca improved to 9.9 today s/p calcitonin and
   pamidronate.  Endocrine following.  Given h/o lung cancer (likely small
   cell) have to consider paraneoplastic syndromes.  Also must consider
   another primary malignancy as cause, possibly thymoma given h/o
   myasthenia [**Last Name (un) **].  Could also be due to her large HCTZ dose and
   supplemental calcium intake.
   -hold oral calcium replacement and home HCTZ
   -s/p Pamidronate 60mg IV x 1 and calcitonin 300U q6
   -f/u endocrine recs
   -follow serial neuro exams
   -f/u PTHrp
   -t/b with outpt oncologist in am re status and treatment of lung cancer
   -consider chest CT to look for source will hold off for now given ARF
   .
   # Weakness: Neurology following. Differential is broad but includes
   hypercalcemia, UTI and myasthenia crisis in this pt who has had
   generalized weakness for the past few weeks.  Continuing Imuran 100mg
   and starting plasma pheresis today.  Currently, sating well on RA
   though desats with sleeping likely due to apnea/OSA.  Pt is a chronic
   CO2 retainer with elevated serum bicarb, will need to monitor
   hypoventilation in setting of acute on chronic weakness.
   -continue home dose of Mestinon and Prednisone 40mg daily
   -avoid medications which may worsen myasthenia [**Last Name (un) **]
   -starting pheresis today with plan for 5 sessions
   - continue Imuran 100mg
   -f/u neurology recs
   -monitor resp status, goal sats of 90-92%
   -serial neuro exams and ABGs
   - monitor/trend vital capacities
   .
   # Acute renal failure: Improving but creatinine still elevated from
   baseline 1.0.  Hypercalcemia on admission likely causing dehydration
   and possibly contributing to ARF.
   -hold digoxin for now
   -trend creatinine
   -f/u urine lytes & urine Ca
   - d/c home lisinopril
   .
   # UTI: Continuing ceftriaxone for Proteus seen in urine.
   -sensitive to ceftriaxone, day [**2-10**] today
   -trend WBCs
   .
   # Metabolic alkalosis: Complicated acid/base picture as patient has
   chronic respiratory acidosis from COPD.  Possibly secondary to
   contraction in setting of hypercalcemia.  [**Month (only) 51**] have a non-gap metabolic
   acidosis now superimposed on her chronic respiratory acidosis.
   - monitor ABG
   .
   # HTN: SBPs improved.  BP regimen as below:
   - Hydralazine 50mg q6hr
   - Metoprolol 25mg TID
   - s/p 2 doses of lasix 40mg IV
   -d/c lisinopril and HCTZ
   .
   # Afib: Currently in A fib and anticoagulated with Coumadin at home.
   Held Coumadin for pheresis line placement yesterday and will restart
   today.
   - restarting Coumadin today
   - increase metoprolol as above
   - holding digoxin due to ARF
   .
   # Elevated lactate: Resolved.
   .
   # ?Pulmonary artery hypertension: Questionable pul a HTN on CXR, will
   consider Echo in the future.
   .
   # FEN: Regular diet as tolerated.
   - replete electrolytes
   .
   # Prophylaxis: PPI (already anticoagulated), subq heparin while waiting
   for Coumadin to become therapeutic
   .
   # Access: PIVs
   .
   # Code: presumed full
   .
   # Communication: Patient
   .
   # Disposition: ICU for monitoring of respiratory status
   ICU Care
   Nutrition: reg diet as tolerated
   Glycemic Control:  none
   Lines:
   18 Gauge - [**2122-8-16**] 07:56 PM
   20 Gauge - [**2122-8-16**] 07:57 PM
   Pheresis Catheter - [**2122-8-17**] 04:24 PM
   Prophylaxis:
   DVT: heparin drip
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2122-08-19 10:58:00 Physician Attending Progress Note
Chief Complaint: [**First Name9 (NamePattern2) 9352**] [**Last Name (un) 249**], hypercalcemia, renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient with somewhat labile blood pressure last night. Missed several
   doses of hydralazine yesterday.
   Heparin infusion started.
   Afebrile.
   Several vital capacity measurements yesterday; all were above 1.0 L
   (1.0-1.2)
   Hct down without signs of bleeding.
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Erythromycin Base
   increased infec
   Last dose of Antibiotics:
   Ceftriaxone - [**2122-8-18**] 05:05 PM
   Infusions:
   Heparin Sodium - 700 units/hour
   Other ICU medications:
   Other medications:
   Omeprazole, prednisone, mestinon, lopressor, imuran
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-8-19**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.3
C (97.3
   HR: 69 (54 - 82) bpm
   BP: 128/62(79) {87/45(57) - 195/81(102)} mmHg
   RR: 20 (13 - 23) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 85 kg (admission): 79.3 kg
             Total In:
                                                                    974 mL
                                                                    876 mL
   PO:
                                                                     60 mL
                                                                    600 mL
   TF:
   IVF:
                                                                    914 mL
                                                                    276 mL
   Blood products:
   Total out:
                                                                  1,850 mL
                                                                    900 mL
   Urine:
                                                                  1,850 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -876 mL
                                                                    -24 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///25/
   NIF: -40 cmH2O
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, Diaphoretic
   Eyes / Conjunctiva: PERRL, Pupils dilated, No(t) Conjunctiva pale,
   No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, Absent),
   (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   Wheezes : Rare, expiratory, Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.7 g/dL
   122 K/uL
   117 mg/dL
   1.4 mg/dL
   25 mEq/L
   3.2 mEq/L
   22 mg/dL
   99 mEq/L
   133 mEq/L
   32.4 %
   8.2 K/uL
        [image002.jpg]
                             [**2122-8-16**]  09:50 PM
                             [**2122-8-17**]  01:34 AM
                             [**2122-8-17**]  04:45 AM
                             [**2122-8-17**]  05:09 PM
                             [**2122-8-17**]  05:48 PM
                             [**2122-8-18**]  02:55 AM
                             [**2122-8-18**]  08:49 AM
                             [**2122-8-19**]  04:13 AM
   WBC
   11.3
   12.9
   7.8
   9.6
   8.2
   Hct
   42.2
   37.7
   33.2
   34.6
   32.4
   Plt
   184
   158
   138
   167
   122
   Cr
   1.5
   1.4
   1.5
   1.4
   1.4
   TCO2
   40
   34
   Glucose
   166
   130
   157
   121
   117
   Other labs: PT / PTT / INR:16.3/85.0/1.4, ALT / AST:20/22, Alk Phos / T
   Bili:23/0.5, Lactic Acid:1.1 mmol/L, Albumin:4.1 g/dL, LDH:300 IU/L,
   Ca++:9.3 mg/dL, Mg++:1.5 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 HYPERCALCEMIA (HIGH CALCIUM)
 HYPERTENSION, BENIGN
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   ANEMIA
   ============================
   Ventilatory function stable except for one [**Location (un) **] yesterday; recheck
   today. Plasmapharesis continues.
   Calcium in good range.
   Hct down with volume resuscitation on admission. Check stool guaiac.
   Will check Chest CT re: density in right lung; with elevated calcium
   and concern about paraneoplastic lesion, assess for new lesion.
   Renal function stable. Replete potassium.
   ICU Care
   Nutrition: oral
   Glycemic Control:
   Lines:
   18 Gauge - [**2122-8-16**] 07:56 PM
   20 Gauge - [**2122-8-16**] 07:57 PM
   Pheresis Catheter - [**2122-8-17**] 04:24 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2122-08-20 07:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   .
   - 3pm FVC 1.3 L, NIF -30
   - midnight: FVC 0.8L, NIF -45-50
   - 6am ([**8-20**]): FVC 0.8, NIF -50
   .
   - increase (starting [**8-20**]) Imuran to 150mg daily per neuro
   .
   Pt feels ok this AM. Denies SOB and difficulty taking breaths.
   Allergies:
   Erythromycin Base
   increased infec
   Last dose of Antibiotics:
   Ceftriaxone
 completed course
   Infusions:
   Heparin Sodium - 850 units/hour
   Other ICU medications:
   Heparin Sodium - [**2122-8-19**] 03:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-8-20**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 55 (55 - 84) bpm
   BP: 109/68(78) {101/49(63) - 161/126(129)} mmHg
   RR: 22 (18 - 28) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 85 kg (admission): 79.3 kg
             Total In:
                                                                  1,960 mL
                                                                    134 mL
   PO:
                                                                  1,440 mL
             TF:
   IVF:
                                                                    520 mL
                                                                    134 mL
   Blood products:
   Total out:
                                                                  2,050 mL
                                                                    500 mL
   Urine:
                                                                  2,050 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -90 mL
                                                                   -366 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 0.5L
   SpO2: 98%
   ABG: ///26/
   NIF: -50 cmH2O
   Physical Examination
   General: Sitting in bed, in NAD on nasal cannula
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Irregularly irregular rate and rhythm, normal S1 + S2, no murmurs,
   rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema,
   [**5-12**] muscle strength in all extremities, sensation intact all four
   extremities, and bilateral lid lag.
   Labs / Radiology
   131 K/uL
   10.2 g/dL
   133 mg/dL
   1.3 mg/dL
   26 mEq/L
   3.7 mEq/L
   23 mg/dL
   98 mEq/L
   135 mEq/L
   32.4 %
   7.6 K/uL
        [image002.jpg]
                             [**2122-8-16**]  09:50 PM
                             [**2122-8-17**]  01:34 AM
                             [**2122-8-17**]  04:45 AM
                             [**2122-8-17**]  05:09 PM
                             [**2122-8-17**]  05:48 PM
                             [**2122-8-18**]  02:55 AM
                             [**2122-8-18**]  08:49 AM
                             [**2122-8-19**]  04:13 AM
                             [**2122-8-20**]  04:17 AM
   WBC
   11.3
   12.9
   7.8
   9.6
   8.2
   7.6
   Hct
   42.2
   37.7
   33.2
   34.6
   32.4
   32.4
   Plt
   184
   158
   138
   167
   122
   131
   Cr
   1.5
   1.4
   1.5
   1.4
   1.4
   1.3
   TCO2
   40
   34
   Glucose
   166
   130
   157
   121
   117
   133
   Other labs: PT / PTT / INR:14.1/83.6/1.2, Ca++:9.2 (
9.3) mg/dL,
   Mg++:1.8 mg/dL, PO4:1.4 mg/dL
   .
   PTHrp, Vitamin D 1, 25 and Vitamin D 25 pending
   .
   Haptoglobin: 118 (normal)
   .
   BCx [**8-16**]
 NGTD
   .
   MRSA negative
   .
   CXR: none
   .
   CT chest: 1. Left upper lobe nodular density with adjacent bronchial
   dilatation is most likely infectious or inflammatory in etiology. 2.
   Persistent right infrahilar nodular density with adjacent infrahilar
   lymphadenopathy for which FDG PET is recommended to exclude neoplasm.
   Because PET may be false positive in the setting of infection, consider
   postponing the PET until after antibiotic treatment for the potentially
   infectious lesion in the left apex to avoid a false positive finding in
   this location.
   3. New Sclerotic lesion of the T8. Although compression fracture is
   most likely, pathological fracture can not be excluded. This may also
   be assessed at the time of PET
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 HYPERCALCEMIA (HIGH CALCIUM)
 HYPERTENSION, BENIGN
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   .
   65 y/o F with PMHx of AAA s/p endovasc repair, HTN, Stroke, Afib and
   myasthenia [**Last Name (un) **] who presented with generalized weakness, UTI and
   hypercalcemia.
   .
   # Weakness: Neurology following. Imuran increased to 150mg yesterday.
   NIFs have been -20 to -50, but FVC has decreased to 0.6-0.8. Currently,
   satting well on RA though desats with sleeping likely due to
   apnea/OSA.  Pt is a chronic CO2 retainer with elevated serum bicarb,
   will need to monitor hypoventilation in setting of acute on chronic
   weakness.
   -Plasmapheresis today (2 of 5)
   -continue home dose of Mestinon, Prednisone 40mg, Imuran 150mg
   -f/u neurology recs
   - monitor/trend vital capacities q6
   -monitor resp status, goal sats of 90-92%
   -serial neuro exams
   .
   # R infrahilar denisty
 concerning for malignancy as pt has h/o likely
   small cell ca. Did not t/b with oncologist yesterday re: current
   treatment for this. Effusions might represent malignant effusions
   -t/b with oncologist today; PCP [**Last Name (NamePattern4) **]: [**Last Name (NamePattern4) **] [**Telephone/Fax (1) 9412**]
   -PET CT to evaluate lesion for neoplasm if oncologist has not already
   performed this
 will wait to perform PET CT until L sided infection is
   treated (see below) and myasthenia crisis has passed.
   -consider diagnostic/ therapeutic thoracentesis in the future pending
   PET results
   .
   # L apical lesion
 could represent bronchiectasis / infection /
   inflammation
   -will do short course of antibiotic that is compatibile with MG
   medications.
   .
   # Hypercalcemia: Decreasing although Ca continues to be 9s s/p
   calcitonin and pamidronate.  Endocrine following.  PTH up to 50 from 16
   on admission.  Given h/o lung cancer (likely small cell) have to
   consider paraneoplastic syndromes.  Also must consider another primary
   malignancy as cause, possibly thymoma given h/o myasthenia [**Last Name (un) **].
   Could also be due to her large HCTZ dose and supplemental calcium
   intake.
   -hold oral calcium replacement and home HCTZ
   -f/u endocrine recs
   -follow serial neuro exams
   -f/u PTHrp
   -t/b with outpt oncologist in am re status and treatment of lung cancer
   .
   # Acute renal failure: Improving but creatinine still elevated from
   baseline 1.0.  Hypercalcemia on admission likely causing dehydration
   and possibly contributing to ARF.
   -holding digoxin for now
   -trend creatinine
   -hold lisinopril
   .
   # HTN: SBPs less labile overnight.
   - Hydralazine 50mg q6hr
   - Metoprolol 25mg TID
   -hold lisinopril and HCTZ
   .
   # Dropping hct: Hct drop 42 -> 32 since admission. Hct now stable.
   Macrocytic. Suspect this is mostly [**2-9**] hemoconcentration on admission
   and down after volume repletion.  No e/o active bleeding.  Haptoglobin
   normal so hemolysis unlikely. Stool guaiacs negative.
   -trend hct
   -Sent B12, folate
   .
   # UTI (Proteus): completed ceftriaxone course
   -trend WBCs and fever
   .
   # Afib: Currently in A fib and anticoagulated with Coumadin at home.
   Can
t restart her Coumadin as pheresis modifies coag factors and
   difficult to monitor INR.  Pt started on heparin drip.  To be held 1-2h
   prior to pheresis.  PTT to be drawn 4-6h after pheresis and heparin
   restarted.
   - continue metoprolol 25mg PO TID
   - holding digoxin due to ARF
   - monitor PTT for heparin sliding scale
   ICU Care
   Nutrition: Regular
 cardiac diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2122-8-16**] 07:56 PM
   Pheresis Catheter - [**2122-8-17**] 04:24 PM
   Prophylaxis:
   DVT: heparin drip
   Stress ulcer: omeprazole
   VAP:
   Comments:
   Communication:  Comments:  patient
   Code status: Full code
   Disposition: Call out to medicine

2122-08-20 12:28:00 Physician Attending Progress Note
Chief Complaint: Myasthenia [**Last Name (un) 249**], respiratory distress, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient generally comfortable. Maximal inspiratory pressure and Vital
   capacity stable.
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Erythromycin Base
   increased infec
   Last dose of Antibiotics:
   Ceftriaxone - [**2122-8-18**] 05:05 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2122-8-19**] 03:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-8-20**] 12:24 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 78 (55 - 84) bpm
   BP: 135/76(87) {101/50(63) - 161/86(99)} mmHg
   RR: 20 (18 - 28) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 85 kg (admission): 79.3 kg
             Total In:
                                                                  1,960 mL
                                                                    195 mL
   PO:
                                                                  1,440 mL
             TF:
   IVF:
                                                                    520 mL
                                                                    195 mL
   Blood products:
   Total out:
                                                                  2,050 mL
                                                                    900 mL
   Urine:
                                                                  2,050 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -90 mL
                                                                   -705 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.35///26/
   NIF: -50 cmH2O
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral lung fields, No(t) Crackles : ,
   No(t) Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent :
   , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Trace edema, Left lower
   extremity edema: Trace edema, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   131 K/uL
   133 mg/dL
   1.3 mg/dL
   26 mEq/L
   3.7 mEq/L
   23 mg/dL
   98 mEq/L
   135 mEq/L
   32.4 %
   7.6 K/uL
        [image002.jpg]
                             [**2122-8-16**]  09:50 PM
                             [**2122-8-17**]  01:34 AM
                             [**2122-8-17**]  04:45 AM
                             [**2122-8-17**]  05:09 PM
                             [**2122-8-17**]  05:48 PM
                             [**2122-8-18**]  02:55 AM
                             [**2122-8-18**]  08:49 AM
                             [**2122-8-19**]  04:13 AM
                             [**2122-8-20**]  04:17 AM
   WBC
   11.3
   12.9
   7.8
   9.6
   8.2
   7.6
   Hct
   42.2
   37.7
   33.2
   34.6
   32.4
   32.4
   Plt
   184
   158
   138
   167
   122
   131
   Cr
   1.5
   1.4
   1.5
   1.4
   1.4
   1.3
   TCO2
   40
   34
   Glucose
   166
   130
   157
   121
   117
   133
   Other labs: PT / PTT / INR:14.1/83.6/1.2, ALT / AST:20/22, Alk Phos / T
   Bili:23/0.3, Lactic Acid:1.1 mmol/L, Albumin:4.1 g/dL, LDH:174 IU/L,
   Ca++:9.2 mg/dL, Mg++:1.8 mg/dL, PO4:1.4 mg/dL
   Imaging: CXR: small area of bronchiectasis in LUL with mild
   peribronchial inflammation. Infrahilar density RLL (medial basal
   segment), possilbly extending to pleural surface. Right pleural
   effusion
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 HYPERCALCEMIA (HIGH CALCIUM)
 HYPERTENSION, BENIGN
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   LUNG MASS
   BRONCHIECTASIS
   ======================
   Subjectively improved re: strength. Walking with a walker. No
   significant dyspnea with this. I suspect that she is near her baseline
   from a respiratory standpoint.
   CT scan shows small area of bronchiectasis at left apex and an
   infrahilar density on the right (2 cm, which is not changed from [**3-16**]).
   I doubt acute infection, although she does say that she has more of a
   cough and sense of chest congestion than in the past. Will treat with
   azithro for 5 days; she also has a new sclerotic lesion [**Company **]-8; may
   need a PET scan to assess that further. Pleural effusion is old
   (present and larger in [**Month (only) 355**]).
   Remains in afib on heparin infusion.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2122-8-16**] 07:56 PM
   Pheresis Catheter - [**2122-8-17**] 04:24 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes